US03969463
A mixture of 75 ml. of 6N hydrochloric acid and 10-amino-6,7-dihydro-5-methyl-1-oxo-benzo[ij]quinolizine-2-carboxylic acid (12.9 g., 0.05 mole) is diazotized at 5 to 10° C. with sodium nitrite (4.14 g., 0.06 mole) dissolved in about 10 ml. of water. The cold mixture is filtered, then it is added to a mixture of cuprous chloride (19.7 g., 0.1 mole) and concentrated hydrochloric acid (150 ml.) while maintaining the temperature below 20° C. After stirring 1 hour the mixture is diluted with water to provide a creamy-white solid which is collected by filtration. Two recrystallizations from N,N-dimethyl formamide provide 10-chloro-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, m.p. 219.5°-222° C.

reactant | hydrochloric acid | 6N | Cl | ClH
reactant | 10-amino-6,7-dihydro-5-methyl-1-oxo-benzo[ij]quinolizine-2-carboxylic acid | 0.05 mole, 12.9 g | NC=1C=CC=2CCC(N3C=C(C(C1C23)=O)C(=O)O)C | C14H14N2O3
reactant | sodium nitrite | 0.06 mole, 4.14 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | water | O | H2O
product | 10-chloro-6,7-dihydro-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | ClC=1C=CC=2CCC(N3C=C(C(C1C23)=O)C(=O)O)C | C14H12ClNO3
